US04690889
In 1.5 liters of acetonitrile were dispersed 200 g of 5-trifluoroacetamido-1-hydroxynaphthoic acid and 100 g of p-nitrophenol, and the mixture was stirred under heating. To the dispersion was added 15 ml of dimethylformamide, and 110 ml of thionyl chloride was added thereto dropwise. After the dropwise addition, the mixture was heated while stirring for 1 hour, followed by cooling. The precipitate thus formed was collected by filtration, washed with acetonitrile, and dried to obtain 230 g of p-nitrophenyl 5-trifluoroacetamido-1-hydroxynaphthoate.

reactant | 5-trifluoroacetamido-1-hydroxynaphthoic acid | 200 g | FC(C(=O)NC1=C2C=CCC(C2=CC=C1)(C(=O)O)O)(F)F | C13H10F3NO4
reactant | p-nitrophenol | 100 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 110 ml | S(=O)(Cl)Cl | Cl2OS
solvent | acetonitrile | 1.5 liters | C(C)#N | C2H3N
product | p-nitrophenyl 5-trifluoroacetamido-1-hydroxynaphthoate | 230 g | FC(C(=O)NC1=C2C=CCC(C2=CC=C1)(C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])O)(F)F | C19H13F3N2O6
